US07482367B2
4-(4-Methylamino-3-nitro-phenoxy)-pyridine-2-carbonitrile
A mixture of 4-chloro-2-cyano-pyridine (6.9 g, 0.05 moles), 4-methylamino-3-nitrophenol (8.4 g, 0.05 moles), and K2CO3 (10.4 g, 0.075 moles) in DMSO (80 mL) was heated to 60° C. After 11.5 h, HPLC analysis indicated complete conversion of both starting materials. After cooling to 20° C., water (240 mL) was added to the reaction mixture. The temperature rose to 40° C. before decreasing to ambient temperature. The solid was collected by filtration and washed with water (2×40 mL). The solid was then slurried in heptane (40 mL). The solid was collected and washed with heptane (40 mL). The crude product was dried in a vacuum oven at 50° C. for 16 h to afford 10.33 g (76%) of the title compound: 1H NMR (400 MHz, DMSO-d6) δ 8.5 (m, 1H), 8.2 (m, 1H), 7.9 (m, 1 H), 7.7 (m, 1H), 7.5 (m, 1H), 7.2 (m, 1H), 7.1 (m, 1H), 3.0 (s, 3H); 13C NMR (100 MHz, DMSO-d6) δ 165.1, 152.9, 144.4, 140.6, 134.1, 130.4, 130.1, 117.9, 117.1, 117.0, 116.5, 114.9, 29.8; APCI MS [M+H]+=271; HPLC >99% (LCAP).

reactant | 4-chloro-2-cyano-pyridine | 0.05 moles, 6.9 g | ClC1=CC(=NC=C1)C#N | C6H3ClN2
reactant | 4-methylamino-3-nitrophenol | 0.05 moles, 8.4 g | CNC1=C(C=C(C=C1)O)[N+](=O)[O-] | C7H8N2O3
reactant | K2CO3 | 0.075 moles, 10.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 240 mL | O | H2O
solvent | DMSO | 80 mL | CS(=O)C | C2H6OS
product | 4-(4-Methylamino-3-nitro-phenoxy)-pyridine-2-carbonitrile | 10.33 g, 76% | CNC1=C(C=C(OC2=CC(=NC=C2)C#N)C=C1)[N+](=O)[O-] | C13H10N4O3
